US05236952
4.0 g of 3,4-dimethyoxy-5-nitro-benzonitrile are dissolved in 50 ml of dimethylformamide, whereupon the solution is treated with 1.66 g of ammonium chloride and 2.02 g of sodium azide and stirred at 125° for 31 hours. After in each case 8 and 15 hours the same amounts of ammonium chloride and sodium azide are added thereto. After cooling the mixture is poured on to ice. The separated precipitate is filtered under suction, washed with water and dried. There is obtained 2-methoxy-6-nitro-4-(1H-tetrazol-5-yl)phenol in the form of orange crystals of m.p. >240° (dec.).

reactant | 3,4-dimethyoxy-5-nitro-benzonitrile | 4.0 g | COC=1C=C(C#N)C=C(C1OC)[N+](=O)[O-] | C9H8N2O4
reactant | ammonium chloride | 1.66 g | [Cl-].[NH4+]
reactant | sodium azide | 2.02 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-methoxy-6-nitro-4-(1H-tetrazol-5-yl)phenol | COC1=C(C(=CC(=C1)C1=NN=NN1)[N+](=O)[O-])O | C8H7N5O4
